US04020076
A mixture of 162 g of benzyl alcohol and 196 g of ethoxycarbonyl isothiocyanate and 1 ml of triethylamine in 1 liter of tetrahydrofuran was refluxed for 24 hours and was concentrated to dryness. The residue was washed with petroleum ether and isopropyl ether to obtain 256 g of benzyl N-carbethoxy-thiocarbamate melting at 96° C.

reactant | benzyl alcohol | 162 g | C(C1=CC=CC=C1)O | C7H8O
reactant | ethoxycarbonyl isothiocyanate | 196 g | C(C)OC(=O)N=C=S | C4H5NO2S
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 1 liter | O1CCCC1 | C4H8O
product | benzyl N-carbethoxy-thiocarbamate | 256 g | C(=O)(OCC)NC(OCC1=CC=CC=C1)=S | C11H13NO3S
